US04954501
6-[3-fluoro-4-(piperazin-1-yl)-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone
5.0 g (22.3 mmol) of 6-(3,4-difluorophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone and 19.2 g (222 mmol) of piperazine are stirred at 160° C. for 15 hours. When the reaction mixture has cooled down, it is taken up with 200 ml of dichloromethane and washed with 3×30 ml of water. After drying, the organic phase is concentrated by evaporation and the residue is crystallized with methanol. The solid obtained is suction filtered and recrystallized from ethyl acetate. 3.5 g (54%) of colourless crystals, m.p. 172°-174° C., are obtained.

reactant | 6-(3,4-difluorophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 22.3 mmol, 5.0 g | FC=1C=C(C=CC1F)C=1C(CC(NN1)=O)C | C11H10F2N2O
reactant | piperazine | 222 mmol, 19.2 g | N1CCNCC1 | C4H10N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 6-[3-fluoro-4-(piperazin-1-yl)-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 3.5 g, 54% | FC=1C=C(C=CC1N1CCNCC1)C=1C(CC(NN1)=O)C | C15H19FN4O
